US09233108B2
ethyl[4-(2-oxopropyl)phenoxy]acetate
1-(4-hydroxyphenyl)propan-2-one (500 mg, 3.33 mmol), ethyl 2-bromoacetate (0.37 mL, 3.34 mmol) and potassium carbonate (575 mg, 4.16 mmol) were dissolved in acetonitrile (7 mL) in a sealed tube under argon atmosphere. The reaction mixture was heated to 90° C. for 3.5 hours. The solids were filtered and washed with additional acetonitrile and the filtrate was concentrated under reduced pressure to give the title compound (790 mg, 100% yield).

reactant | 1-(4-hydroxyphenyl)propan-2-one | 3.33 mmol, 500 mg | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
reactant | ethyl 2-bromoacetate | 3.34 mmol, 0.37 mL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 4.16 mmol, 575 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | ethyl[4-(2-oxopropyl)phenoxy]acetate | 790 mg, 100% yield | C(C)OC(COC1=CC=C(C=C1)CC(C)=O)=O | C13H16O4
